US07132436B2
3-Chloro-2-methyl-N-(4-phenyl-1,3-thiazol-2-yl)benzenesulfonamide
The title compound was prepared from 2-amino-4-phenylthiazole and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (51.8 mg) with purity >90%. MS (pos) m/z 365.1.

reactant | 2-amino-4-phenylthiazole | NC=1SC=C(N1)C1=CC=CC=C1 | C9H8N2S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-2-methyl-N-(4-phenyl-1,3-thiazol-2-yl)benzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C1=CC=CC=C1)C | C16H13ClN2O2S2
